US06140344
A mixture of 4-(3,4-dichlorobenzoyl)piperidine (1.28 g, 4.96 mmol) (see., Boswell et. al., J. Med. Chem., 21, 136, (1977)) and DL-N-BOC-Valinal (1.33 g, 6.6 mmol) (see., Stanfield et. al., J. Org. Chem., 46(23), 4797, (1981)) in dichloromethane (150 mL) was treated with sodium triacetoxyborohydride (1.36 g, 6.4 mmol). The reaction mixture was stirred under nitrogen for 1 day, then directly purified by filtration through a pad of silica gel by elution with hexanes and ethyl acetate. The organics were removed and the resultant oil (2.1 g) was dissolved in dichloromethane (22 mL) and treated with trifluoroacetic acid (8 mL). After stirring under nitrogen for 1 h, the solvent was removed in vacuo. The residue was treated with aqueous sodium bicarbonate until basic and the product was extracted into chloroform. The organic layer was dried with magnesium sulfate, filtered and concentrated to give [1-(2-amino-3-methylbutyl)piperidin-4-yl]-(3,4-dichlorophenyl)methanone (1.47 g) as an oil.

reactant | 4-(3,4-dichlorobenzoyl)piperidine | 4.96 mmol, 1.28 g | ClC=1C=C(C(=O)C2CCNCC2)C=CC1Cl | C12H13Cl2NO
reactant | N-BOC-Valinal | 6.6 mmol, 1.33 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C=O | C10H19NO3
reactant | sodium triacetoxyborohydride | 6.4 mmol, 1.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | [1-(2-amino-3-methylbutyl)piperidin-4-yl]-(3,4-dichlorophenyl)methanone | 1.47 g | NC(CN1CCC(CC1)C(=O)C1=CC(=C(C=C1)Cl)Cl)C(C)C | C17H24Cl2N2O
